US08426449B2
Step 1: (3-{4-Bromo-2-[(ethyl-methoxycarbonyl-amino)-methyl]-phenoxy}-4-methoxy-phenyl)-acetic acid methyl ester
Prepared according to the procedure described in Example 3 Step 3, using the following starting materials: [3-(4-bromo-2-ethylaminomethyl-phenoxy)-4-methoxy-phenyl]-acetic acid methyl ester and methyl chloroformate.

reactant | [3-(4-bromo-2-ethylaminomethyl-phenoxy)-4-methoxy-phenyl]-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)Br)CNCC)=O | C19H22BrNO4
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
product | (3-{4-Bromo-2-[(ethyl-methoxycarbonyl-amino)-methyl]-phenoxy}-4-methoxy-phenyl)-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)Br)CN(C(=O)OC)CC)=O | C21H24BrNO6
